US09382188B2
A) 2-(5-(tert-butyl)-1,3,4-thiadiazol-2-yl)-2′-fluoro-5′-methoxy-[1,1′-biphenyl]-4-yl pivalate
A solution of 2′-fluoro-5′-methoxy-2-(2-pivaloylhydrazinecarbonyl)-[1,1′-biphenyl]-4-yl pivalate (203 mg) and the Lawesson's reagent (194 mg) in THF (6.0 mL) was stirred at 80° C. for 50 min. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (196 mg) as a colorless oil.

reactant | 2′-fluoro-5′-methoxy-2-(2-pivaloylhydrazinecarbonyl)-[1,1′-biphenyl]-4-yl pivalate | 203 mg | C(C(C)(C)C)(=O)OC1=CC(=C(C=C1)C1=C(C=CC(=C1)OC)F)C(=O)NNC(C(C)(C)C)=O | C24H29FN2O5
reactant | Lawesson's reagent | 194 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | THF | 6.0 mL | C1CCOC1 | C4H8O
product | 2-(5-(tert-butyl)-1,3,4-thiadiazol-2-yl)-2′-fluoro-5′-methoxy-[1,1′-biphenyl]-4-yl pivalate | 196 mg | C(C(C)(C)C)(=O)OC1=CC(=C(C=C1)C1=C(C=CC(=C1)OC)F)C=1SC(=NN1)C(C)(C)C | C24H27FN2O3S
